US05541335
7.48 g of 2-acetoxymethyl-4-chloromethyl-4-hydroxythiazoline, prepared according to either Example 3 or 4, was suspended in 20 ml of 5N hydrogen chloride in isopropanol and heated to reflux for 45 minutes. The suspension was cooled in an ice bath and 30 ml of diethyl ether added dropwise over 30 minutes. The slurry was stirred a further 30 minutes at 0° C. and the precipitate filtered, washed with ether and dried under vacuum. 4-chloromethyl-2-hydroxymethylthiazole hydrochloride, 6.22 g (93% yield) was obtained.

reactant | 2-acetoxymethyl-4-chloromethyl-4-hydroxythiazoline | 7.48 g | C(C)(=O)OCC=1SCC(N1)(O)CCl | C7H10ClNO3S
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | hydrogen chloride | 5N, 20 ml | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-chloromethyl-2-hydroxymethylthiazole hydrochloride | 93% yield | Cl.ClCC=1N=C(SC1)CO | InChI=1S/C5H6ClNOS.ClH/c6-1-4-3-9-5(2-8)7-4;/h3,8H,1-2H2;1H
